US07199147B2
Under a nitrogen atmosphere, lithium aluminum hydride (1.4 mg, 0.0369 mmol) was added to a solution of 1-benzylazepan-3-one (15 mg, 0.0738 mmol) in diethyl ether (1 ml) at 0° C., and the resulting mixture was heated to room temperature. After 30 minutes, water, a 2M-aqueous sodium hydroxide solution and water were added in that order to the reaction solution. The resulting mixture was filtered by the use of Celite, and the filtrate was concentrated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: chloroform/methanol) to obtain 1-benzylazepan-3-ol (16.2 mg, 100%).

reactant | lithium aluminum hydride | 0.0369 mmol, 1.4 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-benzylazepan-3-one | 0.0738 mmol, 15 mg | C(C1=CC=CC=C1)N1CC(CCCC1)=O | C13H17NO
reactant | water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
product | 1-benzylazepan-3-ol | 16.2 mg, 100% | C(C1=CC=CC=C1)N1CC(CCCC1)O | C13H19NO
